US06384011B1
Cellulose (20 g), sodium hydroxide (10 g), water (30 g), and ethanol (150 g) are charged into a 500 ml glass reactor. The resulting alkali cellulose is stirred 45 minutes at 25° C. Then monochloroacetic acid (15 g) and hexylchoride (1 g) are added and the temperature raised over time to 95° C. and held at 95° C. for 150 minutes. The reaction is cooled to 70° C., and then cooled to 25° C. Neutralization is accomplished by the addition of a sufficient amount of nitric acid/acetic acid to achieve a slurry pH of between 8 and 9. The slurry is filtered to obtain a hexylether of CMC.

reactant | sodium hydroxide | 10 g | [OH-].[Na+]
reactant | monochloroacetic acid | 15 g | ClCC(=O)O | C2H3ClO2
reactant | hexylchoride | 1 g | C(CCCCC)Cl | C6H13Cl
reactant | nitric acid acetic acid | [N+](=O)(O)[O-].C(C)(=O)O
reactant | ethanol | 150 g | C(C)O | C2H6O
solvent | water | 30 g | O | H2O
product | hexylether | C(CCCCC)OCCCCCC | C12H26O
